* C:\Users\ngloc\Documents\UTN\TC2\TS2\TS2.asc
Vi Vi 0 AC 1
R1 N001 Vi 1k
R2 Vo1 N001 7.07k
R3 Vo N001 10k
R4 N002 Vo2 10k
R3_2 N003 Vo1 10k
R4_2 Vo N002 10k
C1 Vo1 N001 100µ
C2 Vo2 N003 100µ
XU1 0 N001 v+ v- Vo1 LM741
XU2 N003 0 v+ v- Vo LM741
XU3 0 N002 v+ v- Vo2 LM741
V1 v+ 0 12
V2 0 v- 12
.ac dec 100 0.001 100
.include D:\Descargas\snom211a\lm741.lib
.backanno
.end
