* C:\Users\ngloc\Documents\UTN\TC2\TS4\TS4.asc
R1 N006 N005 11.11
L1 N006 0 8.75µ
C1 N006 0 7.23µ
V1 N005 0 AC 1
XU1 N002 N006 N002 opamp Aol=100K GBW=10Meg
R2 N004 N002 9.17
L2 N004 0 6µ
C2 N004 0 7.23µ
XU2 N001 N004 N001 opamp Aol=100K GBW=10Meg
R3 N003 N001 8.33
L3 N003 0 7.23µ
C3 N003 0 7.23µ
.ac dec 100 1k 1meg
.lib opamp.sub
.backanno
.end
