* C:\Users\ngloc\Documents\UTN\TC2\TS3\TS3_gic.asc
V1 v+ 0 12
V2 0 v- 12
XU1 N003 N007 v+ v- Vo1 LM741
V3 N008 0 AC 1
XU2 N011 N007 v+ v- N010 LM741
R1 N010 N003 1k
C2 N007 N010 100n
R3 Vo1 N007 450
R4 N011 Vo1 1k
R5 0 N011 1k
R2 N009 N008 1560
C1 N003 N009 63.6n
C3 N001 N004 63.6n
R6 N004 Vo1 640
XU3 N001 N002 v+ v- Vo2 LM741
XU4 N006 N002 v+ v- N005 LM741
R7 N005 N001 1k
C4 N002 N005 100n
R8 Vo2 N002 450
R9 N006 Vo2 1k
R10 0 N006 1k
R14 Vo2 Vo 3K
R15 Vo 0 1k
.include D:\Descargas\snom211a\lm741.lib
.ac dec 100 1 100000
.backanno
.end
